US06399606B1
3-[((2R)-2-{[(3,4,5-Trimethoxyphenyl)amino]carbonylamino}-2-(methoxycarbonyl)ethylthio)methyl]-4-oxo-4-(3-pyridyl)butanoic Acid
The title compound was prepared from 3-({(2R)-2-[(fluoren-9-ylmethoxy)carbonylamino]-2-(methoxycarbonyl)ethylthio}methyl)-4-oxo-4-(3-pyridyl)butanoic acid and 3,4,5-trimethoxyphenyl isocyanate as described in Example 16 in a 7.2% yield; ESMS, (M+1)+536.

reactant | 3-({(2R)-2-[(fluoren-9-ylmethoxy)carbonylamino]-2-(methoxycarbonyl)ethylthio}methyl)-4-oxo-4-(3-pyridyl)butanoic acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CSCC(CC(=O)O)C(C=1C=NC=CC1)=O)C(=O)OC | C29H28N2O7S
reactant | 3,4,5-trimethoxyphenyl isocyanate | COC=1C=C(C=C(C1OC)OC)N=C=O | C10H11NO4
product | 3-[((2R)-2-{[(3,4,5-Trimethoxyphenyl)amino]carbonylamino}-2-(methoxycarbonyl)ethylthio)methyl]-4-oxo-4-(3-pyridyl)butanoic Acid | 7.2% yield | COC=1C=C(C=C(C1OC)OC)NC(=O)N[C@@H](CSCC(CC(=O)O)C(C=1C=NC=CC1)=O)C(=O)OC | C24H29N3O9S
